US06794395B1
tert.butyl 2-nitro-4-trifluormethyl-phenylacetate
2.6 g of potassium-tert.butoxide are placed in 45 ml of dimethylformamide and at an internal temperature of −5° C. 1.3 ml of 3-nitro-trifluorotoluene and 1.5 ml of tert.butyl chloroacetate in 1 ml of dimethylformamide are added dropwise. The mixture is stirred for another 5 minutes and the solution is then poured onto ice water and the precipitate formed is suction filtered.

reactant | potassium tert.butoxide | 2.6 g | [K].CC(C)([O-])C
reactant | 3-nitro-trifluorotoluene | 1.3 ml | [N+](=O)([O-])C=1C=C(C=CC1)C(F)(F)F | C7H4F3NO2
reactant | tert.butyl chloroacetate | 1.5 ml | ClCC(=O)OC(C)(C)C | C6H11ClO2
solvent | dimethylformamide | 45 ml | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 1 ml | CN(C=O)C | C3H7NO
product | tert.butyl 2-nitro-4-trifluormethyl-phenylacetate | [N+](=O)([O-])C1=C(C=CC(=C1)C(F)(F)F)CC(=O)OC(C)(C)C | C13H14F3NO4
